* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 6   RMS error: 3.019e-03

.SUBCKT FILTER_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  447.3f

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  0

* Branch 2: parallel RLC  pole=-6.3188e+06+1.1991e+10j
* Z = 1/(1/R + 1/sL + sC),  R=5.346m,  L=4.6989e-16,  C=14.8u
R0001  n0001 n0002  5.346m
L0001  n0001 n0002  4.6989e-16
C0000  n0001 n0002  14.8u

* Branch 3: parallel RLC  pole=-2.0135e+09+1.6190e+09j
* Z = 1/(1/R + 1/sL + sC),  R=493.6m,  L=297.7p,  C=503.1p
R0002  n0002 n0003  493.6m
L0002  n0002 n0003  297.7p
C0001  n0002 n0003  503.1p

* Branch 4: parallel RLC  pole=-1.1944e+09+2.9643e+09j
* Z = 1/(1/R + 1/sL + sC),  R=1.024,  L=239.5p,  C=408.9p
R0003  n0003 n0004  1.024
L0003  n0003 n0004  239.5p
C0002  n0003 n0004  408.9p

* Branch 5: parallel RLC  pole=-9.0925e+06+2.0460e+09j
* Z = 1/(1/R + 1/sL + sC),  R=10.25m,  L=44.52f,  C=5.366u
R0004  n0004 n0005  10.25m
L0004  n0004 n0005  44.52f
C0003  n0004 n0005  5.366u

* Branch 6: parallel RLC  pole=-6.2602e+06+5.5097e+08j
* Z = 1/(1/R + 1/sL + sC),  R=1.016m,  L=41.92f,  C=78.58u
R0005  n0005 0  1.016m
L0005  n0005 0  41.92f
C0004  n0005 0  78.58u

.ENDS FILTER_FOSTER

