* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 10   RMS error: 3.793e-12
* Normalization: w0 = 9.105201e+05 rad/s  (sn = s/w0 is order-1 across band)

.SUBCKT MULTI_PEAK_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(sn) / DEN(sn),  sn = s / w0
E1 out 0 LAPLACE {V(in,0)} = {(2.392889e+61+8.948086e+62*(s/9.105201e+05)+1.017272e+63*(s/9.105201e+05)**2+1.389487e+64*(s/9.105201e+05)**3+4.466253e+63*(s/9.105201e+05)**4+2.434923e+64*(s/9.105201e+05)**5+2.443662e+63*(s/9.105201e+05)**6+5.113921e+63*(s/9.105201e+05)**7+1.986499e+62*(s/9.105201e+05)**8+2.099263e+62*(s/9.105201e+05)**9)/(1.522439e+60+1.442300e+60*(s/9.105201e+05)+4.575524e+61*(s/9.105201e+05)**2+1.939625e+61*(s/9.105201e+05)**3+2.380376e+62*(s/9.105201e+05)**4+3.206231e+61*(s/9.105201e+05)**5+1.394550e+62*(s/9.105201e+05)**6+8.930173e+60*(s/9.105201e+05)**7+1.477236e+61*(s/9.105201e+05)**8+4.452572e+59*(s/9.105201e+05)**9+3.916473e+59*(s/9.105201e+05)**10)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS MULTI_PEAK_LAPLACE

