* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 2   RMS error: 8.924e-02

.SUBCKT NOISY1_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(9.396807e-05+6.931197e-02*s+-4.921476e-05*s**2)/(-1.113413e-01+2.787078e-01*s+1.000000e+00*s**2)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS NOISY1_LAPLACE

