* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 2   RMS error: 7.086e-03

.SUBCKT NOISY2_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(3.883529e-01+1.996247e+00*s+-7.352387e-04*s**2)/(3.972282e+00+3.919705e-01*s+1.000000e+00*s**2)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS NOISY2_LAPLACE

