* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 2   RMS error: 2.375e-02

.SUBCKT NOISY3_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(-7.392307e-02+6.803288e-01*s+-1.129126e-04*s**2)/(-6.463664e+01+-2.189792e+00*s+1.000000e+00*s**2)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS NOISY3_LAPLACE

