* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 2   RMS error: 7.086e-03

.SUBCKT NOISY2_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  6.728u

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  0

* Branch 2: parallel RLC  pole=-2.0019e-01+1.9901e+00j
* Z = 1/(1/R + 1/sL + sC),  R=4.997,  L=500.1m,  C=499.8m
R0001  n0001 0  4.997
L0001  n0001 0  500.1m
C0000  n0001 0  499.8m

.ENDS NOISY2_FOSTER

