* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 1.390e-03

.SUBCKT PASSIVITY1_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(7.425829e+37+1.328638e+30*s+6.930184e+19*s**2+1.598839e+11*s**3+-2.358688e-04*s**4)/(1.261992e+37+1.755584e+27*s+1.514043e+19*s**2+5.640536e+08*s**3+1.000000e+00*s**4)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS PASSIVITY1_LAPLACE

