* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 1.390e-03

.SUBCKT PASSIVITY1_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  2.428f

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  0

* Branch 2: parallel RLC  pole=-2.3562e+08+3.7625e+09j
* Z = 1/(1/R + 1/sL + sC),  R=150.8,  L=5n,  C=14.07p
R0001  n0001 n0002  150.8
L0001  n0001 n0002  5n
C0000  n0001 n0002  14.07p

* Branch 3: parallel RLC  pole=-4.7124e+07+9.4130e+08j
* Z = 1/(1/R + 1/sL + sC),  R=942.5,  L=100n,  C=11.26p
R0002  n0002 0  942.5
L0002  n0002 0  100n
C0001  n0002 0  11.26p

.ENDS PASSIVITY1_FOSTER

