* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 3.459e-01

.SUBCKT PASSIVITY2_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  10.45p

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  2.951m

* Branch 2: parallel RLC  pole=-2.3662e+08+3.7641e+09j
* Z = 1/(1/R + 1/sL + sC),  R=151,  L=5.023n,  C=13.99p
R0001  n0001 n0002  151
L0001  n0001 n0002  5.023n
C0000  n0001 n0002  13.99p

* Branch 3: parallel RLC  pole=-4.7172e+07+9.4128e+08j
* Z = 1/(1/R + 1/sL + sC),  R=942.5,  L=100.1n,  C=11.25p
R0002  n0002 n0003  942.5
L0002  n0002 n0003  100.1n
C0001  n0002 n0003  11.25p

* Branch 4: parallel RLC  pole=-1.5021e+05+7.4385e+06j
* Z = 1/(1/R + 1/sL + sC),  R=1.573,  L=8.535n,  C=2.117u
R0003  n0003 0  1.573
L0003  n0003 0  8.535n
C0002  n0003 0  2.117u

.ENDS PASSIVITY2_FOSTER

