* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 2   RMS error: 2.296e-14

.SUBCKT SDOMAIN2_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(4.000000e-01+2.000000e+00*s+9.854694e-16*s**2)/(4.000000e+00+4.000000e-01*s+1.000000e+00*s**2)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS SDOMAIN2_LAPLACE

